US04294960
2-{2-(2,2,2-Trifluoroacetamido)-4-thiazolyl}-2-methoxyiminoacetic acid (syn isomer, 0.65 g.) was added at 0° C. to Vilsmeier reagent which had been prepared from dimethylformamide and phosphorus oxychloride in ethyl acetate (10 ml.), and the mixture was stirred at the same temperature for 40 minutes to prepare the activated acid solution. The activated acid solution was added dropwise to a solution of 7-amino-2,3-dimethyl-3-cephem-4-carboxylic acid (0.5 g.) and trimethylsilylacetamide (1.73 g.) in ethyl acetate (30 ml.) at -20° C., and the mixture was stirred at the same temperature for 40 minutes. To the resultant mixture was added water (10 ml.), and the ethyl acetate layer was separated from the mixture and washed with water. Water (30 ml.) was added to the solution and the mixture was adjusted to pH 7.5 with sodium bicarbonate under ice-cooling. After shaking the mixture, the aqueous layer was separated. Ethyl acetate (50 ml.) was added to the aqueous solution, and the mixture was adjusted to pH 2 with dilute hydrochloric acid with stirring, and the ethyl acetate layer was separated, washed with water and a saturated aqueous solution of sodium chloride in turn, treated with activated charcoal, dried over magnesium sulfate and then concentrated under reduced pressure. The residue was pulverized with diisopropyl ether to give 7-[2-{2-(2,2,2-trifluoroacetamido)-4-thiazolyl}-2-methoxyiminoacetamido]-2,3-dimethyl-3-cephem-4-carboxylic acid (syn isomer, 0.9 g.).

reactant | 2-{2-(2,2,2-Trifluoroacetamido)-4-thiazolyl}-2-methoxyiminoacetic acid | 0.65 g | FC(C(=O)NC=1SC=C(N1)C(C(=O)O)=NOC)(F)F | C8H6F3N3O4S
reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-2,3-dimethyl-3-cephem-4-carboxylic acid | 0.5 g | NC1[C@@H]2N(C(=C(C(S2)C)C)C(=O)O)C1=O | C9H12N2O3S
reactant | trimethylsilylacetamide | 1.73 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-[2-{2-(2,2,2-trifluoroacetamido)-4-thiazolyl}-2-methoxyiminoacetamido]-2,3-dimethyl-3-cephem-4-carboxylic acid | 0.9 g | FC(C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(C(S2)C)C)C(=O)O)C1=O)=NOC)(F)F | C17H16F3N5O6S2
